US08609656B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(4-imidazo-[4,5-b]pyridin-3-ylphenyl)urea (Table 1, Compound No. 8)
The title compound can be synthesized from imidazo[4,5-b]pyridine, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 1.

reactant | imidazo[4,5-b]pyridine | N1C=NC2=NC=CC=C21 | C6H5N3
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(4-imidazo-[4,5-b]pyridin-3-ylphenyl)urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C=NC=2C1=NC=CC2)C(F)(F)F | C20H13ClF3N5O
